US08389720B2
2-(4-hydroxytetrahydro-2H-pyran-4-yl)-2-phenylethanaminium chloride
To (4-hydroxytetrahydro-2H-pyran-4-yl)(phenyl)acetonitrile (50 mg, 0.230 mmol) in ethanol (2 ml) was added HCl (0.190 ml, 2.301 mmol) then 10% Pd/C (49.0 mg, 0.046 mmol) as a slurry in ethanol. The reaction mixture was put under H2 balloon pressure for 15 hours. The reaction was filtered through a 0.45 um syringe-tip filter, then concentrated in vacuo. The product was used without further purification. 49.6 mg, 84%.

reactant | (4-hydroxytetrahydro-2H-pyran-4-yl)(phenyl)acetonitrile | 0.230 mmol, 50 mg | OC1(CCOCC1)C(C#N)C1=CC=CC=C1 | C13H15NO2
reactant | HCl | 2.301 mmol, 0.190 ml | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.046 mmol, 49.0 mg | [Pd] | Pd
product | 2-(4-hydroxytetrahydro-2H-pyran-4-yl)-2-phenylethanaminium chloride | [Cl-].OC1(CCOCC1)C(C[NH3+])C1=CC=CC=C1 | InChI=1S/C13H19NO2.ClH/c14-10-12(11-4-2-1-3-5-11)13(15)6-8-16-9-7-13;/h1-5,12,15H,6-10,14H2;1H
